US07498337B2
2,2-difluoro-2-iodo-1-(2-methylphenyl)ethanone
To a suspension of zinc (1.6 g) in acetonitrile (40 mL) were added trimethylsilyl chloride (3.1 mL) and 2-chloro-2,2-difluoro-1-(2-methylphenyl)ethanone (4.0 g), and the mixture was stirred at 55° C. for 3 hr. The reaction mixture was allowed to cool to room temperature, iodine (3.5 g) was added, and the mixture was further stirred for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The extract was washed with aqueous sodium hydrogen sulfite solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane) to give the title compound as a yellow oil (yield 2.6 g, 46%).

reactant | trimethylsilyl chloride | 3.1 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-chloro-2,2-difluoro-1-(2-methylphenyl)ethanone | 4.0 g | ClC(C(=O)C1=C(C=CC=C1)C)(F)F | C9H7ClF2O
reactant | iodine | 3.5 g | II | I2
reactant | Water | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
catalyst | zinc | 1.6 g | [Zn] | Zn
product | 2,2-difluoro-2-iodo-1-(2-methylphenyl)ethanone | yield 2.6 g, 46% | FC(C(=O)C1=C(C=CC=C1)C)(I)F | C9H7F2IO
